US07282501B2
Step C: 3-[4-Benzyloxy-3-(tert-butoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester
3-(4-benzyloxy-3-carbamoylmethyl-phenyl)-propionic acid methyl ester (15.9 g, 48.6 mmol) was dissolved in CH3CN (850 mL) and DMF (8 mL) with warming. Water was added, the solution was cooled to ambient temperature, and [bis(trifluoroacetoxy)iodo]benzene (31.32 g, 72.8 mmol) was added. After 30 min, pyridine (8.2 mL) was added, and the solution was stirred for 17 h. Triethylamine (28 mL, 200 mmol) and di-tert-butyl dicarbonate (16.0 g, 73.3 mmol) were added. The mixture was stirred for 2.5 h and was concentrated. The residue was partitioned between EtOAc (1 L) and brine (150 mL). The organic layer was washed with ice-cold 1N HCl (150 mL), saturated NaHCO3 solution (150 mL) and brine (100 mL); dried (NaSO4); and concentrated. The residue was purified by silica gel column chromatography (CH2Cl2/EtOAc 100/0 to 95/5) to a yellow oil (11.0 g, 57%).

reactant | 3-(4-benzyloxy-3-carbamoylmethyl-phenyl)-propionic acid methyl ester | 48.6 mmol, 15.9 g | COC(CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)CC(N)=O)=O | C19H21NO4
reactant | [bis(trifluoroacetoxy)iodo]benzene | 72.8 mmol, 31.32 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | Triethylamine | 200 mmol, 28 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 73.3 mmol, 16.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 850 mL | CC#N | C2H3N
solvent | pyridine | 8.2 mL | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-[4-Benzyloxy-3-(tert-butoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester | COC(CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)CNC(=O)OC(C)(C)C)=O | C23H29NO5
